US09233098B2
5. Preparation of 2-[3-[4-(2-naphthamido)benzyl]-2-methyl-1H-indol-1-yl]acetic acid
Into a dry reaction vessel, ethyl 2-[3-[4-(2-naphthamido)benzyl]-2-methyl-1H-indol-1-yl]acetate (530 mg, 1.11 mmol), lithium hydroxide monohydrate (140 mg, 3.34 mmol), 5 mL tetrahydrofuran, 5 mL methanol, 10 mL water were added successively, and stirred at room temperature for 1 h. The reaction was monitored to be complete by TLC. The solvent was rotate evaporated. It was adjusted to pH=3-4 with 2 N HCl solution. A solid precipitated, and was washed with ethyl acetate, dichloromethane, acetonitrile to obtain the product 100 mg as a white solid, at a yield of 20.1%.

reactant | ethyl 2-[3-[4-(2-naphthamido)benzyl]-2-methyl-1H-indol-1-yl]acetate | 1.11 mmol, 530 mg | C1=C(C=CC2=CC=CC=C12)C(=O)NC1=CC=C(CC2=C(N(C3=CC=CC=C23)CC(=O)OCC)C)C=C1 | C31H28N2O3
reactant | lithium hydroxide monohydrate | 3.34 mmol, 140 mg | O.[OH-].[Li+]
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | methanol | 5 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 2-[3-[4-(2-naphthamido)benzyl]-2-methyl-1H-indol-1-yl]acetic acid | 100 mg, yield of 20.1% | C1=C(C=CC2=CC=CC=C12)C(=O)NC1=CC=C(CC2=C(N(C3=CC=CC=C23)CC(=O)O)C)C=C1 | C29H24N2O3
